US05380739
1.0 g (0.0038 mole) of 2-cyano-1-[4-(hydroxymethyl)phenyl]indole was dissolved in 150 ml tetrahydrofuran, 10.0 g of activated manganese dioxide was added, and the mixture stirred at room temperature for 16 hours. The reaction was filtered and the filtrate evaporated to an oil, which was crystallized from a mixture of methyl-t-butyl ether and hexane 1:1 to give 0.63 g (0.0026 mole) of 1-(4-formylphenyl)-2-cyanoindole as an oil.

reactant | 2-cyano-1-[4-(hydroxymethyl)phenyl]indole | 0.0038 mole, 1.0 g | C(#N)C=1N(C2=CC=CC=C2C1)C1=CC=C(C=C1)CO | C16H12N2O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
catalyst | manganese dioxide | 10.0 g | [O-2].[O-2].[Mn+4]
product | 1-(4-formylphenyl)-2-cyanoindole | 0.0026 mole, 0.63 g | C(=O)C1=CC=C(C=C1)N1C(=CC2=CC=CC=C12)C#N | C16H10N2O
